US07915270B2
1-(5-(3-Fluorophenyl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-Phenylheptyl)-5-(3-fluorophenyl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (75 mg, 0.113 mmol) and 1-fluoro-3-iodobenzene following General Procedure A. Flash chromatography (2% EtOAc/hexanes) yielded the title compound as a clear oil (53 mg, 98%): 1H NMR (CDCl3, 400 MHz) 7.43-7.33 (m, 3H), 7.29-7.25 (m, 3H), 7.18-7.15 (m, 3H), 7.04-7.00 (m, 1H), 4.83 (t, 1H, J=6.0 Hz), 2.59 (t, 2H, J=7.6 Hz), 1.96-1.88 (m, 2H), 1.63-1.59 (m, 2H), 1.47-1.35 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 170.4, 167.3 (d, J=245 Hz), 155.1, 147.9, 135.6 (d, J=8.4 Hz), 135.2 (d, J=8.5 Hz), 133.5, 133.3, 130.7, 127.7, 124.9 (d, J=3.0 Hz), 120.2 (d, J=21.1), 116.2 (d, J=23.5), 73.8, 41.5, 41.0, 36.5, 34.3, 34.3, 30.8, 30.2, 23.3, 0.2, 0.0.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-Phenylheptyl)-5-(3-fluorophenyl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC(=CC=C1)F | C28H38FNO2Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.113 mmol, 75 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-fluoro-3-iodobenzene | FC1=CC(=CC=C1)I | C6H4FI
product | 1-(5-(3-Fluorophenyl)oxazol-2-yl)-7-phenylheptan-1-one | 53 mg, 98% | FC=1C=C(C=CC1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H22FNO2
